2173-01-20 07:38:00 Physician Resident Progress Note
Chief Complaint: 73 yo M with CVA, HTN, PEG who presents with
   hypernatremia, hyperglycemia/HHS, fevers with seizures, and acute renal
   failure.
   24 Hour Events:
   -K remained low at 2.9, repleted with K through PEG, will likely need K
   added to IVFs
   -Na, Cre improved with IVFs
   - Insulin gtt decreased to 10 U/hr
   - started ppx abx and antiviral for presumed meningitis
   - fluids changed to D5
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2173-1-20**] 02:30 AM
   Ampicillin - [**2173-1-20**] 06:00 AM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-1-20**] 02:49 AM
   Dilantin - [**2173-1-20**] 03:00 AM
   Other medications:
   Tylenol
   Insulin gtt
   Colace
   Heparin
   Phenytoin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-20**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 103 (101 - 116) bpm
   BP: 121/65(80) {100/61(71) - 138/76(90)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                     16 mL
                                                                  4,545 mL
   PO:
             TF:
   IVF:
                                                                     16 mL
                                                                  1,645 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    525 mL
   Urine:
   125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     16 mL
                                                                  4,020 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   14.6 g/dL
   144 mg/dL
   1.5 mg/dL
   21 mEq/L
   2.9 mEq/L
   44 mg/dL
   136 mEq/L
   167 mEq/L
   46.4 %
   16.0 K/uL
        [image002.jpg]
                            [**2173-1-20**]  01:00 AM
                            [**2173-1-20**]  05:00 AM
   WBC
   16.0
   Hct
   46.4
   Plt
   151
   Cr
   1.8
   1.5
   TropT
   0.04
   Glucose
   290
   144
   Other labs: CK / CKMB / Troponin-T:2635/7/0.04, ALT / AST:47/60, Alk
   Phos / T Bili:104/0.7, Lactic Acid:3.6 mmol/L, Albumin:3.3 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   73M with h/o R sided strokes, seizure disorder, dementia, now with new
   onset diabetes and hyperglycemia/HHS, fevers, elevated WBC, and
   witnessed seizure, and hypernatremia
   .
   Plan:
   # fevers/elevated WBC: CXR clear. Urine clear except for high glucose.
   Abd soft, nontender. Seizures raise suspicion for CNS infection,
   although no signs of meningismus on exam. No signs of RUQ
   pathology/cholecystitis on LFTs.
   - f/u bld, urine cultures
   - will need LP; empirically treat for meningitis with CTX 2gm daily,
   vanc 1gm q24 (renally adjusted dose), ampicillin 2gm Q6h to cover
   Listeria, and acyclovir 10mg/kg q12h empirically
   - check C. diff
   - repeat CXR.
   .
   # hyperglycemia: Likely HHS (no ketones in urine, so unlikely DKA).
   Stimulant likely infectious process. Total Free water deficit 8.7 L.
   Would like to decrease Na by 12 mEq over 24 hours (0.5 mEq/hr), so
   amount of free water needed to correct this is 3.2 L.
   - continue insulin gtt ([**Month (only) 453**] to 5 U/hr)
   - Q1h fingersticks
   - change fluids to 40 meq K  D5
 NS @ 250 ccs/hr
   - free H2O boluses at 150 q4H through PEG
   .
   # hypernatremia: Na 158 on chem7, but after correcting for Glc 774, Na
   is 169. Changed IVFs from NS in ED to 1/2NS for IVF for both free water
   repletion and volume expansion.  Likely chronic process.
   .
   # acute renal failure: unknown baseline, but elevated at 2.1. Likely
   prerenal. Check urine lytes. Renally dose meds, avoid nephrotoxins.
   Check renal U/S if does not resolve.
   .
   # HTN: currently normotensive, dry, and infected, so will hold
   antihypertensives
   .
   # EKG changes: pt does have multiple cardiac risk factors, although
   nonspecific distribution of ST depressions more consistent with demand
   than plaque rupture physiology. Check cardiac enzymes.
   .
   # seizure do: has history of seizures and today had seizure in setting
   of fever and dilantin level of 3.8; not clear when last seizure was.
   With fevers and leukocytosis, will pursue LP as above. Reloaded with
   500mg dilantin IV and increase maintenance dose to 50mg [**Hospital1 **] from 25mg
   [**Hospital1 **]. Re-Check dilantin level in PM prior to PM dose.
   .
   # FEN: has PEG, nutrition c/s for TF recommendations
   - replete K aggressively
   .
   # Access: PIV; for insulin, abx, will need at least a second PIV; may
   need PICC in am
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Insulin gtt
   Lines:
   20 Gauge - [**2173-1-19**] 10:54 PM
   18 Gauge - [**2173-1-20**] 01:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments: Not indicated
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: in ICU

2173-01-21 07:57:00 Physician Resident Progress Note
Chief Complaint: Hypernatremia
   24 Hour Events:
 PICC LINE - START [**2173-1-20**] 11:24 AM
   - Urine and blood cultures pending
   - Family refused LP
   - C diff ordered
   - CXR with ? interstitial edema
   - 6p Na 162 from 169 at 1a- correcting w/ 250 cc Q 4 plus
   - D5 1/2 NS plus 40 K at 200cc/hr for the night
   - Phenytoin level 7.9 ([**11-9**] therapeutic at 6p)
   - CK continueds to trend up to 6733 in evening. Trop flat
   -Fingersticks trended down to nadir 47 then fluids back to D5 1/2 NS
   from 1/2 NS at midnight
   -PICC successfully placed
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-1-20**] 10:20 AM
   Ceftriaxone - [**2173-1-21**] 01:28 AM
   Ampicillin - [**2173-1-21**] 03:54 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Dextrose 50% - [**2173-1-20**] 11:22 PM
   Dilantin - [**2173-1-21**] 03:03 AM
   Heparin Sodium (Prophylaxis) - [**2173-1-21**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-21**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 88 (79 - 108) bpm
   BP: 123/92(100) {104/59(72) - 167/92(117)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                 10,250 mL
                                                                  2,329 mL
   PO:
             TF:
                                                                    120 mL
                                                                    142 mL
   IVF:
                                                                  6,350 mL
                                                                  1,688 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    375 mL
   Urine:
                                                                    900 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,950 mL
                                                                  1,954 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: surgical pupils
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   94 K/uL
   11.0 g/dL
   173 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   16 mg/dL
   127 mEq/L
   158 mEq/L
   35.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2173-1-20**]  01:00 AM
                            [**2173-1-20**]  05:00 AM
                            [**2173-1-20**]  11:23 AM
                            [**2173-1-20**]  06:07 PM
                             [**2173-1-21**]  04:00 AM
   WBC
   16.0
   12.7
   Hct
   46.4
   35.1
   Plt
   151
   94
   Cr
   1.8
   1.5
   1.1
   1.0
   0.7
   TropT
   0.04
   0.04
   0.02
   0.02
   Glucose
   290
   144
   155
   213
   173
   Other labs: PT / PTT / INR:15.4/55.0/1.4, CK / CKMB /
   Troponin-T:5812/10/0.02, ALT / AST:57/123, Alk Phos / T Bili:104/0.7,
   Lactic Acid:3.6 mmol/L, Albumin:3.3 g/dL, Ca++:7.5 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ELECTROLYTE & FLUID DISORDER, OTHER
 DIABETIC KETOACIDOSIS (DKA)
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   73M with h/o R sided strokes, seizure disorder, dementia, now with new
   onset diabetes and hyperglycemia/HHS, fevers, elevated WBC, and
   witnessed seizure, and hypernatremia
   .
   Plan:
   # fevers/elevated WBC: CXR clear. Urine clear except for high glucose.
   Abd soft, nontender. Seizures raise suspicion for CNS infection,
   although no signs of meningismus on exam. No signs of RUQ
   pathology/cholecystitis on LFTs.
   - f/u bld, urine cultures
   - will need LP; empirically treat for meningitis with CTX 2gm daily,
   vanc 1gm q24 (renally adjusted dose), ampicillin 2gm Q6h to cover
   Listeria, and acyclovir 10mg/kg q12h empirically
   - check C. diff
   - repeat CXR.
   .
   # hyperglycemia: Likely HHS (no ketones in urine, so unlikely DKA).
   Stimulant likely infectious process. Total Free water deficit 8.7 L.
   Would like to decrease Na by 12 mEq over 24 hours (0.5 mEq/hr), so
   amount of free water needed to correct this is 3.2 L.
   - continue insulin gtt ([**Month (only) 453**] to 5 U/hr)
   - Q1h fingersticks
   - change fluids to 40 meq K  D5
 NS @ 250 ccs/hr
   - free H2O boluses at 150 q4H through PEG
   .
   # hypernatremia: Na 158 on chem7, but after correcting for Glc 774, Na
   is 169. Changed IVFs from NS in ED to 1/2NS for IVF for both free water
   repletion and volume expansion.  Likely chronic process.
   .
   # acute renal failure: unknown baseline, but elevated at 2.1. Likely
   prerenal. Check urine lytes. Renally dose meds, avoid nephrotoxins.
   Check renal U/S if does not resolve.
   .
   # HTN: currently normotensive, dry, and infected, so will hold
   antihypertensives
   .
   # EKG changes: pt does have multiple cardiac risk factors, although
   nonspecific distribution of ST depressions more consistent with demand
   than plaque rupture physiology. Check cardiac enzymes.
   .
   # seizure do: has history of seizures and today had seizure in setting
   of fever and dilantin level of 3.8; not clear when last seizure was.
   With fevers and leukocytosis, will pursue LP as above. Reloaded with
   500mg dilantin IV and increase maintenance dose to 50mg [**Hospital1 **] from 25mg
   [**Hospital1 **]. Re-Check dilantin level in PM prior to PM dose.
   .
   # FEN: has PEG, nutrition c/s for TF recommendations
   - replete K aggressively
   .
   # Access: PIV; for insulin, abx, will need at least a second PIV; may
   need PICC in am
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-1-20**] 12:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2173-1-19**] 10:54 PM
   18 Gauge - [**2173-1-20**] 01:00 AM
   PICC Line - [**2173-1-20**] 11:24 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2173-01-21 11:45:00 Physician Attending Progress Note
Chief Complaint: Hypernatremia, seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2173-1-20**] 11:24 AM
   Dilantin initiated.
   History obtained from Medical records
   Patient unable to provide history: Non-communicative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2173-1-21**] 01:28 AM
   Vancomycin - [**2173-1-21**] 08:13 AM
   Ampicillin - [**2173-1-21**] 10:00 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Dextrose 50% - [**2173-1-20**] 11:22 PM
   Dilantin - [**2173-1-21**] 03:03 AM
   Heparin Sodium (Prophylaxis) - [**2173-1-21**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2173-1-21**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 95 (79 - 100) bpm
   BP: 123/60(76) {104/59(72) - 167/92(102)} mmHg
   RR: 26 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                 10,250 mL
                                                                  3,750 mL
   PO:
             TF:
                                                                    120 mL
                                                                    265 mL
   IVF:
                                                                  6,350 mL
                                                                  2,706 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    745 mL
   Urine:
                                                                    900 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,950 mL
                                                                  3,005 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Dense left hemiplegia
   Labs / Radiology
   11.0 g/dL
   94 K/uL
   173 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   16 mg/dL
   127 mEq/L
   158 mEq/L
   35.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2173-1-20**]  01:00 AM
                            [**2173-1-20**]  05:00 AM
                            [**2173-1-20**]  11:23 AM
                            [**2173-1-20**]  06:07 PM
                             [**2173-1-21**]  04:00 AM
   WBC
   16.0
   12.7
   Hct
   46.4
   35.1
   Plt
   151
   94
   Cr
   1.8
   1.5
   1.1
   1.0
   0.7
   TropT
   0.04
   0.04
   0.02
   0.02
   Glucose
   290
   144
   155
   213
   173
   Other labs: PT / PTT / INR:15.4/55.0/1.4, CK / CKMB /
   Troponin-T:5812/10/0.02, ALT / AST:57/123, Alk Phos / T Bili:104/0.7,
   Lactic Acid:3.6 mmol/L, Albumin:3.3 g/dL, Ca++:7.5 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   SEPSIS -- fever and leukocytosis suggest infection, but no obvious
   source on initial presentation.  Concern for possible meningitis or
   encephalitis, although no meningeal signs on presentation, and altered
   mental status may be attributed to hypernatremia.
   Hypernatremia -- significant free water deficit remains.  Likely a
   subacute process in setting of HHS.  Monitor Na q6h.  Free H2O via PEG.
   Hyperglycemia -- Most c/w HHS, with significant volume depletion on
   admission. No gap acidosis.  Glucose improved.  Continue current
   regimen.  Insulin requirement may change when Free H2O is corrected,
   and D5W discontinued.
   ARF--pre-renal etiology, possibly with ATN component. Creatinine
   improving with hydration but still with poor urine output.
   SEIZURE IDSORDER -- witnessed seizuire by EMS.  Now controlled.  Follow
   Dilantin level.  Consider repeat EEG.
   CPK ELEVATION -- suspect related to seizures.  Doubt rhabdomyalasis.
   Monitor CPK to observe clearing.
   ACUTE RENAL FAILURE -- improving with iv hydration.  Monitor UO, BUN,
   creatinine.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-1-20**] 12:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-1-19**] 10:54 PM
   18 Gauge - [**2173-1-20**] 01:00 AM
   PICC Line - [**2173-1-20**] 11:24 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2173-01-22 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Discontinued ampicillin and vancomycin
   - Discontinued IVF
   - Patient's insulin drip was stopped and glarine + HISS was started
   - Attempted [**Last Name (un) 72**] consult; however, they were not reachable
   - Sodium check at 1700 was 150 (was 162 24 hours prior)
   - Sodium check at 2300 was 149
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-1-21**] 08:13 AM
   Ampicillin - [**2173-1-21**] 10:00 AM
   Ceftriaxone - [**2173-1-22**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-1-21**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-22**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 98 (81 - 98) bpm
   BP: 164/79(99) {123/56(76) - 164/103(143)} mmHg
   RR: 19 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  5,674 mL
                                                                    695 mL
   PO:
             TF:
                                                                    810 mL
                                                                     69 mL
   IVF:
                                                                  3,254 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    360 mL
   Urine:
                                                                  1,905 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,769 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, O2 mask on face
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: 2+ DP and radial pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+ [**Location (un) **]
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli
   Labs / Radiology
   71 K/uL
   10.9 g/dL
   203 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   12 mg/dL
   116 mEq/L
   148 mEq/L
   33.0 %
   7.4 K/uL
        [image002.jpg]
                            [**2173-1-20**]  01:00 AM
                            [**2173-1-20**]  05:00 AM
                            [**2173-1-20**]  11:23 AM
                            [**2173-1-20**]  06:07 PM
                             [**2173-1-21**]  04:00 AM
                             [**2173-1-21**]  05:27 PM
                             [**2173-1-21**]  10:00 PM
                             [**2173-1-21**]  11:29 PM
                             [**2173-1-22**]  05:08 AM
   WBC
   16.0
   12.7
   7.4
   Hct
   46.4
   35.1
   33.0
   Plt
   151
   94
   71
   Cr
   1.8
   1.5
   1.1
   1.0
   0.7
   0.7
   0.7
   0.7
   TropT
   0.04
   0.04
   0.02
   0.02
   Glucose
   290
   144
   155
   [**Telephone/Fax (3) 3703**]
   257
   218
   203
   Other labs: PT / PTT / INR:15.4/55.0/1.4, CK / CKMB /
   Troponin-T:5812/10/0.02, ALT / AST:57/123, Alk Phos / T Bili:104/0.7,
   Lactic Acid:3.6 mmol/L, Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assesment: 73M with h/o R sided strokes, seizure disorder, dementia,
   now with new onset diabetes and hyperglycemia/HHS, fevers, elevated
   WBC, and witnessed seizure, and hypernatremia.
   .
   Plan:
   # Fevers/elevated WBC: CXR clear. Urine clear except for high glucose.
   Abd soft, nontender. Seizures raised suspicion for CNS infection,
   although no signs of meningismus on exam.  LP not done as family
   refused.  Initially was on meningitis dosing of abx (vanc 1gm q24
   (renally adjusted dose), ampicillin 2gm Q6h to cover Listeria, and
   acyclovir 10mg/kg q12h) which has since been cut back to ceftriaxone
   only as low concern for meningitis,  afebrile WBC down to 7.4.  C. diff
   negative x1, urine cx negative
   -  bld cultures pending
   - will d/c CTX as no evidence of meningitis clinically and low concern
   initially
   - d/c droplet precautions
   - recheck c. diff
   # Hyperglycemic Hyperosmolar Syndrome: On admission markedly elevated
   glucose in a patient with no known history of diabetes and active
   infection as evidenced by fever, WBC. Anion gap 18 (not correcting for
   glc) with bicarb 20, but no ketones in urine, so more c/w HHS than with
   DKA.  Glucose this [**Last Name (un) 3698**] 203.  Off insulin gtt, started on sliding
   scale and 5 of lantus
   - qid fingersticks
   - check A1c
   - [**Last Name (un) 72**] c/s placed, appreciate recs
   # Hypernatremia: On admission Na 158 on chem7, but after correcting for
   Glc 774, Na is 169. Has received 3L NS (hypotonic relative to pt).  Na
   trending down slowly to 148 this morning with correction of half of
   goal in first 24 hours.
   - [**Hospital1 **] lytes check
   - free H2O boluses through feeding tube
 250cc q6h
   #  Acute renal failure: On admission elevated at 2.1, unknown baseline.
   Now resolved at 0.7, was likely prerenal.
   -trend
   -renally dose meds, avoid nephrotoxic agents
   # HTN: Was normotensive on admission and antihypertensives were held,
   now hypertensive to 160
   - restart metprolol at 50mg [**Hospital1 **] (on 100mg [**Hospital1 **] at home)
   - continue lisinopril 5mg qd (on 40mg at home)
   -titrate up home agents prn
   .
   # EKG changes: On admission has nonspecific distribution of ST
   depressions that was more consistent with demand than plaque rupture
   physiology. CK
s were elevated, likely [**2-22**] to renal failure, trops were
   flat.  CK nadir at 6700, now trending down to 5800.
   - continue to trend CK
s, expect continued decrease as ARF has resolved
   # Seizure Disorder: Has history of seizures and had seizure on day of
   admission in setting of fever and dilantin level of 3.8; not clear when
   last seizure was. LP not done as above as above. Reloaded with 500mg
   dilantin IV and increase maintenance dose to 50mg [**Hospital1 **] from 25mg [**Hospital1 **].
   Last dilantin level was supratherapeutic at 28 yesterday am, this
   morning
s level is 13.8
 goal [**11-9**]..
   - EEG ordered, not done yet
   - continue dilatin 300mg tid
   # FEN: has PEG, replete lytes prn, TF and free water flushes as above
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2173-1-19**] 10:54 PM
   PICC Line - [**2173-1-20**] 11:24 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  [**Hospital3 1254**] notes list [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 3634**] as daughter
   and HCP: [**Telephone/Fax (1) 3635**]. Spoke with her, who provided some details of
   history and said that although he would not want CPR/shocks or
   intubation, everything else should be done.
   Code status: DNR / DNI
   Disposition: call out to floor

2173-01-22 09:19:00 Physician Attending Progress Note
Chief Complaint: ARF, HHS, hypernatremia, sz
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  73 yo M NH resident with h/o multiple prior CVAs, htn, sz d/o
   presents with fevers, leukocytosis, severe hypernatremia, sz,  and
   hyperglycemia (HHS).
   24 Hour Events:
 STOOL CULTURE - At [**2173-1-22**] 06:38 AM
   Family declined LP
   Amp/vanco d/c'd given low clinical suspicion for CNS infection.
   Insulin gtt stopped yesterday--> transitioned to glargine and SSI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-1-21**] 08:13 AM
   Ampicillin - [**2173-1-21**] 10:00 AM
   Ceftriaxone - [**2173-1-22**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-1-21**] 08:33 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-1-22**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 98 (81 - 98) bpm
   BP: 156/70(90) {123/56(76) - 164/103(143)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 98% FM
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  5,677 mL
                                                                  1,092 mL
   PO:
             TF:
                                                                    813 mL
                                                                    452 mL
   IVF:
                                                                  3,254 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    360 mL
   Urine:
                                                                  1,905 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,772 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin, MS [**First Name (Titles) **] [**Last Name (Titles) 3433**], awake,
   nonconversant
   Eyes / Conjunctiva: No(t) PERRL, MMM
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, no jvd
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:good AM,
   CTA without wheeze: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, no rash
   Neurologic: Responds to: Verbal stimuli, Oriented (to): at [**Last Name (Titles) 3433**],
   Movement: spont,
   Labs / Radiology
   10.9 g/dL
   71 K/uL
   203 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.3 mEq/L
   12 mg/dL
   116 mEq/L
   148 mEq/L
   33.0 %
   7.4 K/uL
        [image002.jpg]
                            [**2173-1-20**]  01:00 AM
                            [**2173-1-20**]  05:00 AM
                            [**2173-1-20**]  11:23 AM
                            [**2173-1-20**]  06:07 PM
                             [**2173-1-21**]  04:00 AM
                             [**2173-1-21**]  05:27 PM
                             [**2173-1-21**]  10:00 PM
                             [**2173-1-21**]  11:29 PM
                             [**2173-1-22**]  05:08 AM
   WBC
   16.0
   12.7
   7.4
   Hct
   46.4
   35.1
   33.0
   Plt
   151
   94
   71
   Cr
   1.8
   1.5
   1.1
   1.0
   0.7
   0.7
   0.7
   0.7
   TropT
   0.04
   0.04
   0.02
   0.02
   Glucose
   290
   144
   155
   [**Telephone/Fax (3) 3703**]
   257
   218
   203
   Other labs: PT / PTT / INR:15.4/55.0/1.4, CK / CKMB / Troponin-T:5812
   (decreasing) /10/0.02, ALT / AST:57/123, Alk Phos / T Bili:104/0.7,
   Lactic Acid:3.6 mmol/L, Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:2.6 mg/dL
   Imaging: CXR--no new imaging
   Microbiology: mciro--c diff neg, urine cx neg, bl ngtd
   Assessment and Plan
 WHEEZING
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ELECTROLYTE & FLUID DISORDER, OTHER
 DIABETIC KETOACIDOSIS (DKA)
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 TACHYCARDIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   73 yo M NH resident with h/o multiple prior CVAs, htn, sz d/o presents
   with fevers, leukocytosis, severe hypernatremia, sz, and hyperglycemia
   (HHS).
   # Fevers/leukocytosis--no obvious infectious source on initial
   presentation and cx
s have returned neg. Had no indwelling lines or
   catheters on admission.  O2 sats have remained stable throughout course
   with no infiltrate on chest imaging.  Given sz initially covered  for
   possible CNS infection
but have had low clinical suspicion for
   meningitis, family declined LP.
   Has been AF and WBC normalized.
   -          Majority of antibx d/c
d yesterday.  As all cxs neg and
   given low suspicion for CNS infection will d/c ctx today.
   -           F/u final cx results.
   # Hyperglycemia---Most c/w HHS on presentation, s/p adequate volume
   resus.
   -          Continue close electrolyte monitoring, repleting K.
   -          Converted from gtt insulin to glargine and ssi.  [**Last Name (un) 72**]
   c/s.  Will increase glargine.  As pt receives cycling TFs at NH will
   change to this regimen from continuous
will likely need to adjust
   insulin accordingly.
   # Hypernatremia--significant free water deficit on admit.  Likely a
   subacute process. Much improved.
   -          Give free water via peg
   -          Monitor sodium Q 12 hrs.
   # ARF--pre-renal etiology, possibly with ATN component. Cr now
   normalized.  U/o adequate
   # sz d/o--witnessed sz by ems. Known sz d/o,  Dilantin reloaded and
   dose adjusted since admit.
   -          follow levels
   -          EEG ordered
   # Elevated CPK--likely elevated in setting of witnessed sz.  Trop
   mildly elevated in setting of renal failure.
   -          CKs  peaked and now trending down.
   # thrombocytopenia
developed during hospitalization. Likely dilutional
   component.   ? med related. Have very low suspicion for HIT.
   -          Will moniior.
   # AMS
appears back to [**Last Name (un) 3433**].
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-1-22**] 01:19 AM 50 mL/hour
would resume
   cycling TFs as pt receives at NH.
   Glycemic Control:
   Lines:
   20 Gauge - [**2173-1-19**] 10:54 PM
   PICC Line - [**2173-1-20**] 11:24 AM
   Prophylaxis:
   DVT:  sq hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : stable for floor transfer
   Total time spent:  40